US06417212B1
The crude [2-(3-bromophenyl)-5-methyloxazole-4-yl]-acetonitrile (assume 0.22 mol) was combined with 2-methoxyethanol (630 mL) and 85% solid KOH (74.6 g, 1.33 mol) in water (360 mL) was added to the reaction. The mixture was heated to reflux for 3 h, cooled, quenched with 2 M HCl (500 mL), and extracted with CH2Cl2. The organic layer was dried (MgSO4), and the solvent removed in vacuo, using toluene to azeotropically remove residual 2-methoxyethanol. The crude product (57.3 g) was recrystallized from toluene (450 mL) to give 39.8 g (60%) of 2-(3-bromophenyl)-5-methyl-4-oxazoleacetic acid as an off-white powder. 1H NMR (300 MHz, d6-DMSO) δ7.99 (t, J=1.83 Hz, 1H), 7.88 (dt, J=8.1, 1.5 Hz, 1H), 7.65 (ddd, J=8.1, 1.8, 1.5 Hz, 1H), 7.45 (t, J=8.1 Hz, 1H), 3.50 (s, 2H), 2.35 (s, 3H).

reactant | [2-(3-bromophenyl)-5-methyloxazole-4-yl]-acetonitrile | 0.22 mol | BrC=1C=C(C=CC1)C=1OC(=C(N1)CC#N)C | C12H9BrN2O
reactant | 2-methoxyethanol | 630 mL | COCCO | C3H8O2
reactant | KOH | 1.33 mol, 74.6 g | [OH-].[K+]
reactant | water | 360 mL | O | H2O
product | 2-(3-bromophenyl)-5-methyl-4-oxazoleacetic acid | 39.8 g, 60% | BrC=1C=C(C=CC1)C=1OC(=C(N1)CC(=O)O)C | C12H10BrNO3
